US08865736B2
3-[5-(2-Amino-phenyl)-benzothiazol-2-ylmethoxy]-2,6-difluoro-benzamide
To the solution of compound 3-(5-bromo-benzothiazol-2-ylmethoxy)-2,6-difluoro-benzamide (0.3 g 0.755 mmol) in dry DMF:H2O (5 mL: 2.5 mL), phenylamine-2-boronic acid (0.260 g, 1.5 mmol), and K2CO3 (0.125 g, 0.9 mmol) was added under nitrogen atmosphere at room temperature. After that reaction mixture was degassed for half an hour. Dichlorobis[(triphenylphosphine)-palladium (II) was added to the reaction mixture (0.080 g, 0.113 mmol) and again degassed for half an hour and the reaction mixture was heated at 120° C. for 2 hrs under nitrogen atmosphere. DMF was distilled off, after cooling to r.t. water was added into reaction mixture and extracted with ethyl acetate, The combined organic layers were dried over anhydrous Na2SO4, and evaporated to dryness under reduced pressure. The compound was purified by chromatography on silica (230-400μ) using ethyl acetate/hexane (50:50 as the eluent to provide the title compound as yellow solid (0.025 g, 8%). 1H NMR (DMSO-d6, 400 MHz); δ 4.86 (broad s, 2H), 5.71 (s, 2H), 6.66 (dt, 1H, J=8.4 Hz (o-coupling), 6.78 (d, 1H, J=7.2 Hz (o-coupling), 7.04-7.13 (m, 3H), 7.37-7.44 (m, 1H), 7.51 (dd, 1H, J=8.4 Hz (o-coupling), J=1.6 Hz (m-coupling), 7.89 (broad s, 1H), 8.00 (broad s, 1H), 8.18 (d, 2H, J=4.0 Hz); MS ES+ (412.16), HPLC (method 5) Rt=15.33 min.

reactant | 3-(5-bromo-benzothiazol-2-ylmethoxy)-2,6-difluoro-benzamide | 0.755 mmol, 0.3 g | BrC=1C=CC2=C(N=C(S2)COC=2C(=C(C(=O)N)C(=CC2)F)F)C1 | C15H9BrF2N2O2S
reactant | H2O | 5 mL | O | H2O
reactant | K2CO3 | 0.9 mmol, 0.125 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | (triphenylphosphine)-palladium (II) | [Pd+2].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-[5-(2-Amino-phenyl)-benzothiazol-2-ylmethoxy]-2,6-difluoro-benzamide | 0.025 g, 8% | NC1=C(C=CC=C1)C=1C=CC2=C(N=C(S2)COC=2C(=C(C(=O)N)C(=CC2)F)F)C1 | C21H15F2N3O2S
